US06333324B1
2-Aminoethanol (129 mg) was added to a solution of (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-4-phenoxycarbonyl-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide (250 mg) in DMF (2 ml). The reaction mixture was stirred at 80° C. overnight. The mixture was concentrated in vacuo, and the residue was partitioned between AcOEt and H2O. The organic layer was washed with saturated aqueous NaCl solution, dried over MgSO4, and concentrated in vacuo. The residue was purified by SiO2 column chromatography eluted with MeOH in CHCl3=2%, then 4%, to give 138 mg of (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-4-[N-(2-hydroxyethyl)-aminocarbonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide.

reactant | 2-Aminoethanol | 129 mg | NCCO | C2H7NO
reactant | (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-4-phenoxycarbonyl-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide | 250 mg | FC1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)N1[C@H](CN(CC1)C(=O)OC1=CC=CC=C1)C(=O)NOC1OCCCC1 | C27H28FN3O7S2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-4-[N-(2-hydroxyethyl)-aminocarbonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide | 138 mg | FC1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)N1[C@H](CN(CC1)C(=O)NCCO)C(=O)NOC1OCCCC1 | C23H29FN4O7S2
